US05569783
Similarly, when Example 4(a) is repeated except that DMSO is replaced by a volumetrically equivalent amount of DMF or DMAC and sodium methoxide is replaced by a stoichiometrically equivalent amount of sodium ethoxide, sodium n-propoxide, sodium isopropoxide, or sodium tert-butoxide respectively, a mixture of picramide and DATB is produced. The DATB is purified by crystallization from DMF and DMSO.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium isopropoxide | CC([O-])C.[Na+]
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | picramide | C1=C(C=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])[N+](=O)[O-] | C6H4N4O6
reactant | DMAC | CC(=O)N(C)C | C4H9NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | DATB | C1=C(C(=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])N)[N+](=O)[O-] | C6H5N5O6
